US07338959B2
5-(4-{[2-(4-tert-Butyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloric acid
The title compound was prepared following the procedure of example 5 using (4-tert-Butyl-phenyl)-{5-[(2-chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-carbamic acid tert-butyl ester (104 mg, 0.20 mmol) and 5-amino-2-methyl-benzenesulfonamide (37 mg, 0.20 mmol) to give the desired product as a white solid (66 mg, 48%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.35 (s, 1H), 8.96 (s, 1H), 8.62 (s, 1H), 7.71-7.78 (m, 4H), 7.32-7.38 (M, 3H), 7.27 (s, 1H), 7.17-7.23 (M, 3H), 6.96 (d, J=8.4 Hz, 1H), 5.63 (d, J=6.0 Hz, 1H), 3.74 (s, 3H), 3.48 (s, 3H), 2.50 (s, 3H), 1.28 (s, 9H). MS (ESI) m/z=571 [M+H]+.

reactant | (4-tert-Butyl-phenyl)-{5-[(2-chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-carbamic acid tert-butyl ester | 0.20 mmol, 104 mg | C(C)(C)(C)OC(N(C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl)C2=CC=C(C=C2)C(C)(C)C)=O | C28H33ClN6O2
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.20 mmol, 37 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 5-(4-{[2-(4-tert-Butyl-phenylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-2-methyl-benzenesulfonamide hydrochloric acid | 66 mg, 48% | Cl.C(C)(C)(C)C1=CC=C(C=C1)NC1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC=2C=CC(=C(C2)S(=O)(=O)N)C)C | InChI=1S/C30H34N8O2S.ClH/c1-19-7-10-22(17-26(19)41(31,39)40)33-28-32-16-15-27(36-28)37(5)23-13-14-25-24(18-23)35-29(38(25)6)34-21-11-8-20(9-12-21)30(2,3)4;/h7-18H,1-6H3,(H,34,35)(H2,31,39,40)(H,32,33,36);1H
